US05176739
7.5 g (74.1 mmol) of methylmorpholine, 2.4 g (20 mmol) of dimethylaminopyridine and 17.4 g of a 50% strength solution of propanephosphonic anhydride (27.3 mmol) in dichloromethane were added dropwise in succession to 5.1 g (20 mmol) of 5-tert-butylaminocarbonyl-3-isopropylisoxazole-4-carboxylic acid in 200 ml of dichloromethane at -5° C., and the mixture was then refluxed for 6 hours. The solvent was stripped off under reduced pressure, the residue was taken up in 300 ml of ethyl acetate and the solution was extracted twice with saturated sodium bicarbonate solution and once each with 5% strength citric acid solution, saturated sodium carbonate solution and saturated sodium chloride solution. The organic phase was dried and the solvent was stripped off under reduced pressure. 4.1 g (87%) of N-tert-butyl-3-isopropylisoxazole-4,5-dicarboximide were obtained as a solid of melting point 60°-62° C. (Example No. 1.003).

reactant | methylmorpholine | 74.1 mmol, 7.5 g | CN1CCOCC1 | C5H11NO
reactant | dimethylaminopyridine | 20 mmol, 2.4 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 5-tert-butylaminocarbonyl-3-isopropylisoxazole-4-carboxylic acid | 20 mmol, 5.1 g | C(C)(C)(C)NC(=O)C1=C(C(=NO1)C(C)C)C(=O)O | C12H18N2O4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-tert-butyl-3-isopropylisoxazole-4,5-dicarboximide | 4.1 g, 87% | C(C)(C)(C)N1C(=O)C=2C(=NOC2C1=O)C(C)C | C12H16N2O3
